* NGSPICE file created from digital_cs.ext - technology: sky130A

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__conb_1 abstract view
.subckt sky130_fd_sc_hd__conb_1 VGND VNB VPB VPWR HI LO
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

.subckt digital_cs VGND VPWR clk enable f_select[0] f_select[1] f_select[2] f_select[3]
+ phi_p phi_r phi_l1 phi_l2
XFILLER_0_3_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_10_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_0_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_13_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_10_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_1_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_6_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_13_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_7_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_4_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_10_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_4_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_4_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_1_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_1_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_13_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_4_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_13_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_10_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_1_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_13_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xdigital_cs_1 VGND VGND VPWR VPWR digital_cs_1/HI phi_l1 sky130_fd_sc_hd__conb_1
XFILLER_0_1_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
Xdigital_cs_2 VGND VGND VPWR VPWR digital_cs_2/HI phi_l2 sky130_fd_sc_hd__conb_1
XFILLER_0_5_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_1_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_4_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
Xdigital_cs_3 VGND VGND VPWR VPWR digital_cs_3/HI phi_p sky130_fd_sc_hd__conb_1
XFILLER_0_10_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_1_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_13_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_13_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
Xdigital_cs_4 VGND VGND VPWR VPWR digital_cs_4/HI phi_r sky130_fd_sc_hd__conb_1
XFILLER_0_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_11_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_1_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_3_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_4_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_2_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_11_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_1_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_2_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_8_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_2_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_8_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_11_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_40 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_2_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_8_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_12_6 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_41 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_11_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_10_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_5_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_8_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_11_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_42 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_43 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_11_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_32 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_5_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_5_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_11_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_2_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_33 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_5_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_34 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_8_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_8_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_5_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_35 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_5_39 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_36 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_12_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_2_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_37 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_12_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_3_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_8_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_38 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_12_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_39 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_41 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_12_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_4_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_6_53 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_65 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_3_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_34 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_0_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_12_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_2_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_0_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_0_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_57 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_69 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_13_6 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_12_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_12_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_11_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_3_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_0_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
.ends

